US09079866B2
2-({[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol
The title compound was prepared using analogous conditions to those described in Intermediate IF using 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-carboxylic acid and ethanolamine. MS (ESI): mass calcd. for C20H18F4N4O, 406.39; m/z found, 407.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.41 (s, 1H), 8.18 (s, 1H), 8.12-8.01 (m, 2H), 7.86 (dd, J=8.1, 1.7, 1H), 7.65 (d, J=8.1, 1H), 7.34 (dd, J=3.5, 1.6, 1H), 7.33-7.31 (m, 1H), 4.38 (s, 2H), 3.78-3.63 (m, 2H), 3.09-3.00 (m, 2H).

reactant | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-carboxylic acid | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)C(=O)O)F | C18H11F4N3O2
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-({[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)CNCCO)F | C20H18F4N4O
